US08017775B2
Methyl 2-(2-hydroxypyridin-3-yl)-5-nitrobenzoate (Reference Compound No. 1-3-(2))
Methyl 2-(2-methoxypyridin-3-yl)-5-nitrobenzoate (Reference Compound No. 1-3-(1), 200 mg, 0.694 mmol) was dissolved in anhydrous dichloromethane (2 mL), then boron tribromide (118 μL, 1.25 mmol) was added thereto at −78° C. The reaction mixture was stirred at 0° C. for 3 hours, and then poured into ice-water (30 mL). Ethyl acetate (50 mL) was added, and then separated. The organic layer was washed with saturated brine (50 mL), dried over anhydrous magnesium sulfate, and then the solvent was removed under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane-ethyl acetate) to give the titled reference compound (102 mg) as a yellow solid. (Yield 54%)

reactant | Methyl 2-(2-methoxypyridin-3-yl)-5-nitrobenzoate | COC1=NC=CC=C1C1=C(C(=O)OC)C=C(C=C1)[N+](=O)[O-] | C14H12N2O5
reactant | boron tribromide | 1.25 mmol, 118 μL | B(Br)(Br)Br | BBr3
reactant | Ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | Methyl 2-(2-hydroxypyridin-3-yl)-5-nitrobenzoate | 102 mg, Yield 54% | OC1=NC=CC=C1C1=C(C(=O)OC)C=C(C=C1)[N+](=O)[O-] | C13H10N2O5
